US05071875
Using a procedure similar to that described in Example 17, 100 mg of 4-phenyl-2-amino-tetralin yielded 40 mg (32%) of 4-phenyl-2-propionamido tetralin following treatment with propionic anhydride.

reactant | 4-phenyl-2-amino-tetralin | 100 mg | C1(=CC=CC=C1)C1CC(CC2=CC=CC=C12)N | C16H17N
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | 4-phenyl-2-propionamido tetralin | 40 mg, 32% | C1(=CC=CC=C1)C1CC(CC2=CC=CC=C12)NC(CC)=O | C19H21NO
